US06627629B2
Part C. Preparation of (3S,4R)-3-amino-4-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-pyrrolidine-1-carboxylic acid tert-butyl ester.
(3R,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester (99 mg, 195 μmol), palladium hydroxide (20 weight % on carbon, dry basis; 40 mg) and ethanol (7 mL) were combined in a pressure bottle and shaken under hydrogen atmosphere (50-55 psig) for 20 h. The mixture was filtered through Celite, and the solids were rinsed with ethanol. The filtrate was concentrated to give the product as a glassy foam (75 mg, 95%), used without further purification. 1H NMR (300mHz, CDCl3) δ7.26 (m, 2H), 6.96 (m, 2H), 4.57-4.36 (1H), 3.84-2.41 (10H), 1.93-1.70 (6H), 1.44-1.39 (9H); mass spec. (ES+) m/z 406.4.

reactant | (3R,4S)-3-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-4-[(R)-1-phenyl-ethylamino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 195 μmol, 99 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)N[C@H](C)C1=CC=CC=C1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C30H40FN3O3
catalyst | palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | (3S,4R)-3-amino-4-[(S)-3-(4-fluorobenzyl)-piperidine-1-carbonyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 75 mg, 95% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F)N | C22H32FN3O3
